US07855212B2
Intermediate 16: 3-Bromo-2-bromomethylpyridine (cf. Scheme 7, compound VII)
To a mixture of 3-bromo-2-methylpyridine (46.5 g, 0.27 mol) in CCl4 (800 mL) was added NBS (53 g, 0.297 mol) and benzoylperoxide (4.7 g) and refluxed for 2 h in presence of light. The reaction mixture was cooled to 50° C. and filtered off the solid succinimide. The filtrate was concentrated and the crude 6-bromo-2-bromomethylpyridine was used for the follow-up reaction.

reactant | 3-bromo-2-methylpyridine | 0.27 mol, 46.5 g | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | NBS | 0.297 mol, 53 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | 4.7 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 800 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-2-bromomethylpyridine | BrC=1C(=NC=CC1)CBr | C6H5Br2N
